US07943622B2
Step 2. Synthesis of 2-(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)thiazole trihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of tert-butyl 3-((pyridin-3-yloxy)methyl)-4-(thiazol-2-yl)piperazine-1-carboxylate di-TFA salt (130 mg, 0.215 mmol) in MeOH (1 mL). After 1 h, the reaction mixture was concentrated under reduced pressure and purified by HPLC (5 to 50% MeCN/0.1% TFA in H2O/0.1% TFA gradient). The desired chromatography fractions were concentrated under reduced pressure, dissolved in MeOH (1 mL), and treated with 4 M HCl in 1,4-dioxane (6 mL). This was concentrated under reduced pressure, yielding 37.9 mg (46%) of the desired product as a white solid. LC-MS: RT=2.64 min, [M+H]+=277.0.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 3-((pyridin-3-yloxy)methyl)-4-(thiazol-2-yl)piperazine-1-carboxylate di-TFA salt | 0.215 mmol, 130 mg | OC(=O)C(F)(F)F.OC(=O)C(F)(F)F.N1=CC(=CC=C1)OCC1CN(CCN1C=1SC=CN1)C(=O)OC(C)(C)C
solvent | MeOH | 1 mL | CO | CH4O
product | 2-(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)thiazole trihydrochloride | 37.9 mg, 46% | Cl.Cl.Cl.N1=CC(=CC=C1)OCC1N(CCNC1)C=1SC=CN1 | InChI=1S/C13H16N4OS.3ClH/c1-2-12(9-14-3-1)18-10-11-8-15-4-6-17(11)13-16-5-7-19-13;;;/h1-3,5,7,9,11,15H,4,6,8,10H2;3*1H
